US05081237
A solution of (5R,6S)-6-{(1R)-1-hydroxyethyl]-7-oxo-3-[(E)-2-{(2S)-pyrrolidin-2-yl}-1-methylethenyl]-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.48 g) in water (30 ml) was adjusted to pH 8.5 with aqueous potassium carbonate at 0° C. and benzyl formimidate hydrochloride (2.7 g) was added in portions while adjusting around pH 8.5 with addition of aqueous potassium carbonate. After stirring for 15 minutes at pH 8.5, the reaction mixture was washed with ethyl acetate and concentrated in vacuo. The residue was chromatographed on nonionic adsorption resin "Diaion Hp-20" (50 ml) eluting successively with water and 3% aqueous acetone. The fractions containing the desired compound were collected and lyophilized to give (5R,6S)-3-[(E)-2-{(2S)-1-formimidoylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene- 2-carboxylic acid (170 mg).

reactant | (5R,6S)-6-{(1R)-1-hydroxyethyl]-7-oxo-3-[(E)-2-{(2S)-pyrrolidin-2-yl}-1-methylethenyl]-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.48 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)\C(=C\[C@H]1NCCC1)\C | C16H22N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl formimidate hydrochloride | 2.7 g | Cl.C(OCC1=CC=CC=C1)=N
solvent | water | 30 ml | O | H2O
product | (5R,6S)-3-[(E)-2-{(2S)-1-formimidoylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene- 2-carboxylic acid | 170 mg | C(=N)N1[C@@H](CCC1)/C=C(\C)/C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)O | C17H23N3O4
